US07384952B2
A solution of ethyl 4-fluorobenzoate (20 g), N,N-dimethylethylenediamine (20 g) and potassium carbonate (32.9 g) in dimethylsulfoxide (200 mL) is stirred at 80° C. for 3 days. After cooling to room temperature, to the reaction mixture is added ethyl acetate and water, and the mixture is stirred and extracted with ethyl acetate (×2). The organic layer is treated with 10% HCl to transfer basic materials to the aqueous layer. The aqueous layer is washed with ethyl acetate, neutralized with 10% sodium hydroxide solution and extracted with ethyl acetate (×3). The combined extract is dried over anhydrous sodium sulfate and concentrated in vacuo. The resultant crude product is purified by flash column chromatography on NH-silica gel (Solvent; n-hexane:ethyl acetate=8:1→4:1) to give ethyl 4-[[2-(dimethylamino)ethyl]amino]-benzoate (12.45 g, yield; 44%) as an oil. MS (APCI) m/z: 237 [M+H]+

reactant | ethyl 4-fluorobenzoate | 20 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | N,N-dimethylethylenediamine | 20 g | CN(CCN)C | C4H12N2
reactant | potassium carbonate | 32.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 200 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | ethyl 4-[[2-(dimethylamino)ethyl]amino]-benzoate | 12.45 g, yield; 44% | CN(CCNC1=CC=C(C(=O)OCC)C=C1)C | C13H20N2O2
